US05616586
9-Cyano-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-cyano-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (70 mg, 0.245 mmol) and aniline (70 mg, 0.75 mmol) to give 60 mg of the title compound (68%): mp 171°~176° C. (dec); 1H NMR (270 MHz, DMSO-d6)δ12.22 (bs, 1H), 10.02 (s, 1H), 7.56 (d, 2H, J=7.8 Hz), 7.52 (s, 1H), 7.33 (s, 1H), 7.30 (t, 2H, J=7.8 Hz), 7.05 (t, 1H, J=7.8 Hz), 5.18~5.29 (m, 1H), 3.08 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.87 (dm, 1H, J=17.1 Hz), 2.54~2.70 (m, 2H), 2.12 (dm, 1H, J=13.5 Hz), 1.80~1.97 (m, 1H).

reactant | 9-cyano-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.245 mmol, 70 mg | C(#N)C=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C14H11N3O4
reactant | aniline | 0.75 mmol, 70 mg | NC1=CC=CC=C1 | C6H7N
product | 9-Cyano-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 60 mg, 68% | C(#N)C=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=CC=C2)=O | C20H16N4O3
